US05563144
A mixture of 2.2 g of 3-anilino-1,2-benzisothiazole 1,1-dioxide, 2.1 g of 1-(3-chloropropyl)-4-(4-fluorophenyl)piperazine, 3.4 g of potassium carbonate, 1.1 g of tetrabutylammonium bromide and 25 cm3 of dimethylformamide is refluxed for 24 hours. The mixture is then cooled to a temperature of about 20° C. The filtrate is evaporated to dryness at 40° C. under reduced pressure (10 mm of mercury; 1.35 kPa). The residue is taken up in 20 cm3 of water and extracted with 75 cm3 of dichloromethane. The organic phase thus obtained is dried over anhydrous magnesium-sulphate and evaporated to dryness at 40° C. under reduced pressure (20 mm of mercury; 2.7 kPa). The oil obtained is purified by flash chromatography on a silica column, under a nitrogen stream at moderate pressure (0.1-1.5 bar) with ethyl acetate as eluent. 1.0 g of a beige meringue is obtained which, when recrystallization from 10 cm3 of hot ethanol yields 0.95 g of 3-{{3-[4-(4-fluorophenyl)-1-piperazinyl]propyl}phenylamino}-1,2-benzisothiazole 1,1-dioxide; melting point =134° C.

reactant | 3-anilino-1,2-benzisothiazole 1,1-dioxide | 2.2 g | N(C1=CC=CC=C1)C1=NS(C2=C1C=CC=C2)(=O)=O | C13H10N2O2S
reactant | 1-(3-chloropropyl)-4-(4-fluorophenyl)piperazine | 2.1 g | ClCCCN1CCN(CC1)C1=CC=C(C=C1)F | C13H18ClFN2
reactant | potassium carbonate | 3.4 g | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrabutylammonium bromide | 1.1 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dimethylformamide | 25 cm3 | CN(C=O)C | C3H7NO
product | 3-{{3-[4-(4-fluorophenyl)-1-piperazinyl]propyl}phenylamino}-1,2-benzisothiazole 1,1-dioxide | 0.95 g | FC1=CC=C(C=C1)N1CCN(CC1)CCCN(C1=NS(C2=C1C=CC=C2)(=O)=O)C2=CC=CC=C2 | C26H27FN4O2S
